US09359359B2
Step 3 2-(1-hydroxycyclopentyl)ethyl methanesulfonate
To a solution of 1-(2-hydroxyethyl)cyclopentanol (19 0 mg, 1.46 mmol) in dry dichloromethane (2 mL) was added methanesulfonyl chloride (200.3 mg, 1.75 mmol) dropwise at 0° C., followed by TEA (295 mg, 2.92 mmol). Then the mixture was stirred at room temperature 1 h. The mixture was partitioned between ethyl acetate and water. The organic phase was washed with brine, dried over sodium sulfate, filtered and concentrated to give crude product (50 mg, 31.1% yield), which was used without purification.

reactant | 1-(2-hydroxyethyl)cyclopentanol | 1.46 mmol, 0 mg | OCCC1(CCCC1)O | C7H14O2
reactant | methanesulfonyl chloride | 1.75 mmol, 200.3 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-(1-hydroxycyclopentyl)ethyl methanesulfonate | 50 mg, 31.1% yield | CS(=O)(=O)OCCC1(CCCC1)O | C8H16O4S
